US05973154
Preparation of (R)2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid
A stirred mixture of dimethyl 5-methylpyridine-2,3-dicarboxylate (52.25 g, 0.25 mol) and (R)2-amino-2,3-dimethylbutyramide (33.43 g, 0.2563 mol, 96.2% R isomer) in dry toluene is treated with KOt-Bu (29.4 g, 0.2625 mol) at 35° C., stirred at ambient temperatures for 10 minutes, treated with a second portion of KOt-Bu (29.4 g, 0.2625 mol) at 40° C., heated at 80°-85° C. for 1.5-2.0 hr, cooled to room temperature, treated with water and stirred until dissolution of solids is complete. The phases are separated. The aqueous phase is acidified to pH 3 with concentrated HCl, stirred at pH 3 for 10-15 min., and filtered. The aqueous filtrate is extracted with methylene chloride. The filtercake is dispersed in methylene chloride and the dispersion is filtered. The methylene chloride extracts and the methylene chloride filtrate are combined, dried over MgSO4 and concentrated to dryness in vacuo to give the title product as a white solid, 47.3 g, 68.6% yield, 98.1% pure, 97% R isomer by quantitative NMR analysis.

reactant | dimethyl 5-methylpyridine-2,3-dicarboxylate | 0.25 mol, 52.25 g | CC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H11NO4
reactant | (R)2-amino-2,3-dimethylbutyramide | 0.2563 mol, 33.43 g | N[C@@](C(=O)N)(C(C)C)C | C6H14N2O
reactant | KOt-Bu | 0.2625 mol, 29.4 g | CC(C)(C)[O-].[K+]
reactant | KOt-Bu | 0.2625 mol, 29.4 g | CC(C)(C)[O-].[K+]
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid | 68.6% yield | C(C)(C)[C@]1(N=C(NC1=O)C1=C(C(=O)O)C=C(C=N1)C)C | C14H17N3O3
